US08258141B2
Step 2: 1-[9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid (pyridin-2-ylmethyl)-amide
A mixture comprising 1-[9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid (0.06 g, 0.01 mmol) in dry DCM (10 ml) is treated with 2-aminomethylpyridine (0.021 g, 0.2 mmol) followed by HOBt (0.027 g, 0.2 mmol), 1-[Bis(dimethylamino)methylene]-1H-benzotriazoliumhexafluorophosphate-3-oxide HBTU (0.076 g, 0.2 mmol), N-methyl morpholine (0.02 g, 0.2 mmol) and DMAP (1 ml). The resulting mixture is stirred at room temperature for 24 h and then concentrated in vacuo. The resulting residue purified by preparative TLC eluting with 10% MeOH in chloroform to afford the title compound. (MH+ 687.1)

reactant | 1-[9-((1R,2S,3R,4S)-2,3-dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid | 0.01 mmol, 0.06 g | O[C@H]1[C@@H](C[C@@H]([C@H]1O)NC(CC)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)N1N=CC(=C1)C(=O)O | C31H32N8O5
reactant | 2-aminomethylpyridine | 0.2 mmol, 0.021 g | NCC1=NC=CC=C1 | C6H8N2
reactant | HOBt | 0.2 mmol, 0.027 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methyl morpholine | 0.2 mmol, 0.02 g | CN1CCOCC1 | C5H11NO
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1 ml | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-1H-pyrazole-4-carboxylic acid (pyridin-2-ylmethyl)-amide | N1=C(C=CC=C1)CNC(=O)C=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C37H38N10O4
